US08431569B2
Step 5. 4-(Benzyloxy)-2-fluorocyclohexanone
To a stirred solution of {[4-(benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane (11.5 g, 36.1 mmol) in DMF (75 mL) was added Selectfluor (25.6 g, 72.2 mmol) in small portions at 0° C. After completion of the reaction, the mixture was poured into 5% sodium bicarbonate solution. The resulting mixture was extracted with EtOAc, and the combined organics were washed with brine, dried, and concentrate to afford the title compound.

reactant | {[4-(benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane | 36.1 mmol, 11.5 g | C(C1=CC=CC=C1)OC1CC=C(CC1)O[Si](C)(C)C(C)(C)C | C19H30O2Si
reactant | Selectfluor | 72.2 mmol, 25.6 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 4-(Benzyloxy)-2-fluorocyclohexanone | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)F | C13H15FO2
